US07462624B2
Step H: (6E)-3-Pentyl-8-(trifluoromethyl)-3,7-dihydro-1H-purine-2,6-dione-6-hydrazone
A mixture of 6-(methylthio)-3-pentyl-8-(trifluoromethyl)-3,7-dihydro-2H-purin-2-one (0.15 g, 0.23 mmol) and hydrazine (0.80 mL, 25 mmol) in water (0.80 mL) was heated at 100° C. for 1 h. The solution was concentrated under reduced pressure and azeotropically treated with toluene twice. The resulting residue was used for next step without purification. LCMS calculated for C11H16F3N6O (M+H): 305.1; found: 305.1.

reactant | 6-(methylthio)-3-pentyl-8-(trifluoromethyl)-3,7-dihydro-2H-purin-2-one | 0.23 mmol, 0.15 g | CSC=1C=2NC(=NC2N(C(N1)=O)CCCCC)C(F)(F)F | C12H15F3N4OS
reactant | hydrazine | 25 mmol, 0.80 mL | NN | H4N2
solvent | water | 0.80 mL | O | H2O
product | (6E)-3-Pentyl-8-(trifluoromethyl)-3,7-dihydro-1H-purine-2,6-dione-6-hydrazone | C(CCCC)N1C(N/C(/C=2NC(=NC12)C(F)(F)F)=N/N)=O | C11H15F3N6O
